US07618975B2
(2-Chloro-quinazolin-4-yl)-(4-methoxy-benzyl)-methyl-amine
The title compound was prepared from 2,4-dichloroquinazoline (50 mg, 0.251 mmol) and N-methyl-4-methoxybenzylamine (45 mg, 0.302 mmol) by a procedure similar to example 1b and was isolated as white powder (30 mg, 60%). 1H NMR (CDCl3): 7.93 (dd, J=8.4 and 1.2 Hz, 1H), 7.78 (dd, J=8.4 and 1.5 Hz, 1H), 7.68 (ddd, J=8.4, 7.5 and 1.5 Hz, 1H), 7.34-7.26 (m, 3H), 6.96-6.92 (m, 2H), 4.94 (s, 2H), 3.83 (s, 3H), 3.31 (s, 3H).

reactant | 2,4-dichloroquinazoline | 0.251 mmol, 50 mg | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | N-methyl-4-methoxybenzylamine | 0.302 mmol, 45 mg | CNCC1=CC=C(C=C1)OC | C9H13NO
product | (2-Chloro-quinazolin-4-yl)-(4-methoxy-benzyl)-methyl-amine | ClC1=NC2=CC=CC=C2C(=N1)N(C)CC1=CC=C(C=C1)OC | C17H16ClN3O
